US06924400B2
(m) 2-Benzoyloxymethyl-4-hydroxymethylbenzyl benzoate
69 g (140 mmol) of 2-benzoyloxymethyl-4-(tert-butyldimethylsilanyloxymethyl)benzyl benzoate are placed in 450 ml of ethyl acetate in a round-bottomed flask and under a stream of nitrogen. 178 ml of tetrabutylammonium fluoride (1M/THF) are added. The medium is stirred for 30 minutes at room temperature. It is then poured into saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (40/60) to give 46.6 g (88%) of the expected product in the form of a white powder with a melting point of 92° C.

reactant | 2-benzoyloxymethyl-4-(tert-butyldimethylsilanyloxymethyl)benzyl benzoate | 140 mmol, 69 g | C(C1=CC=CC=C1)(=O)OCC1=C(C=C(C=C1)CO[Si](C)(C)C(C)(C)C)COC(C1=CC=CC=C1)=O | C29H34O5Si
reactant | tetrabutylammonium fluoride | 1M, 178 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
product | 2-Benzoyloxymethyl-4-hydroxymethylbenzyl benzoate | 46.6 g, 88% | C(C1=CC=CC=C1)(=O)OCC1=C(C=C(C=C1)CO)COC(C1=CC=CC=C1)=O | C23H20O5
